US07589116B2
2-(Trifluoromethoxy)phenylboronic acid
n-Butyllithium (5.9 ml, 9.5 mmol) was added to a solution of 1-bromo-2-(trifluoromethoxy)benzene (2 g, 8.2 mmol) in tetrahydrofuran (28 ml) at −78° C. and stirred for 45 minutes. Triisopropyl borate (2.58 ml, 11.1 mmol) was added dropwise to the reaction mixture and the solution was slowly brought to room temperature over 16 hours. The reaction mixture was quenched with water, made basic with 2N NaOH and extracted with ethyl acetate. The aqueous solution was acidified with 2N HCl, stirred for 1 hour at room temperature and extracted into ethyl acetate. The organic layer was washed with water, brine solution and dried over sodium sulfate. It was filtered and concentrated to give the product (1.10 g, 65%) as a white solid.

reactant | n-Butyllithium | 9.5 mmol, 5.9 ml | C(CCC)[Li]
reactant | 1-bromo-2-(trifluoromethoxy)benzene | 8.2 mmol, 2 g | BrC1=C(C=CC=C1)OC(F)(F)F | C7H4BrF3O
reactant | Triisopropyl borate | 11.1 mmol, 2.58 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | tetrahydrofuran | 28 ml | O1CCCC1 | C4H8O
product | 2-(Trifluoromethoxy)phenylboronic acid | 1.10 g, 65% | FC(OC1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O3
